US08685977B2
2-fluoro-4-(2-ethyl-4-fluorophenoxy)-5-chlorobenzoic acid
To a solution of 2-ethyl-4-fluorophenol (364 mg, 2.60 mmol) in DMSO (10 mL) was added cesium carbonate (1690 mg, 5.19 mmol) and the mixture stirred at room temperature for 5 minutes. 5-chloro-2,4-difluorobenzoic acid (500 mg, 2.6 mmol) was added and the reaction heated to 110° C. for 18 hours. The reaction was cooled and quenched by the addition of 1N HCl (30 mL) and extracted into ethyl acetate (3×30 mL). The organic layers were combined, washed with brine (30 mL) and concentrated in vacuo before purifying using silica gel column chromatography eluting with ethylacetate:heptane 12:88 to 100:0 to furnish the title compound as a white solid (465 mg, 57%).

reactant | 2-ethyl-4-fluorophenol | 2.60 mmol, 364 mg | C(C)C1=C(C=CC(=C1)F)O | C8H9FO
reactant | cesium carbonate | 5.19 mmol, 1690 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-chloro-2,4-difluorobenzoic acid | 2.6 mmol, 500 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)F | C7H3ClF2O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-fluoro-4-(2-ethyl-4-fluorophenoxy)-5-chlorobenzoic acid | 465 mg, 57% | FC1=C(C(=O)O)C=C(C(=C1)OC1=C(C=C(C=C1)F)CC)Cl | C15H11ClF2O3
